US04421758
(d) Cis-1-[6-(2,6-dichlorobenzyloxy)tetrahydropyran-2-ylmethyl]imidazole
Using 103 mg of imidazole, 66 mg of 55% sodium hydride and 161 mg of cis-6-(2,6-dichlorobenzyloxy)-2-tosyloxymethyltetrahydropyran, the procedure described in Example 1(b) was repeated to give 132 mg of the title product in the form of a colourless oil.

reactant | imidazole | 103 mg | N1C=NC=C1 | C3H4N2
reactant | sodium hydride | 66 mg | [H-].[Na+]
reactant | cis-6-(2,6-dichlorobenzyloxy)-2-tosyloxymethyltetrahydropyran | 161 mg | ClC1=C(CO[C@@H]2CCC[C@@H](O2)COS(=O)(=O)C2=CC=C(C)C=C2)C(=CC=C1)Cl | C20H22Cl2O5S
product | Cis-1-[6-(2,6-dichlorobenzyloxy)tetrahydropyran-2-ylmethyl]imidazole | 132 mg | ClC1=C(CO[C@@H]2CCC[C@@H](O2)CN2C=NC=C2)C(=CC=C1)Cl | C16H18Cl2N2O2
